resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998079
R2 0 n2 1.006953
R3 0 n4 1.005029
R4 n1 n3 0.997709
R5 n1 n5 1.019316
R6 n2 n3 0.991513
C7 n2 n6 2.34e-06
R8 n3 n7 1.006747
R9 n4 n5 0.99711
R10 n4 n6 1.001341
R11 n5 n7 0.997734
R12 n6 n7 0.989852
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
